** sch_path: /foss/designs/test/testbench/bandgap_res_core_temp_vp_sweep_tb.sch
**.subckt bandgap_res_core_temp_vp_sweep_tb
VGD gd 0 0
VP vp gd xvp
.save i(vp)
VSUB gd sub! 0
Vibias net1 bias 0
.save i(vibias)
I0 vp net1 'xibias'
C1 v_ref gd 1p
x1 vp bias v_ref gd start_up vd8 vd1 bandgap_res_core
x2 vd1 vd8 gd bandgap_res_diodes
* noconn start_up
**** begin user architecture code


.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerPNP.lib typ

.param xvp=3.3
.param xibias=10u

.param xtemp=25

*.probe alli
*.probe v(x1)
.probe isub(x1)
.save v(v_ref)
.save v(vp)
.save v(start_up)
.save v(x1.vdr)
.save v(vd1)
.save v(vd8)
.save i(vp)
.save i(vibias)
*.save all

.options rshunt=1G

.temp 'xtemp'
.dc temp -50 125 0.1


**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/test/circuit/bandgap_res_core.sym # of pins=7
** sym_path: /foss/designs/test/circuit/bandgap_res_core.sym
** sch_path: /foss/designs/test/circuit/bandgap_res_core.sch
.subckt bandgap_res_core vp ibias vref gd start_up d8 d1
*.ipin gd
*.ipin vp
*.ipin ibias
*.opin vref
*.opin d1
*.opin d8
*.ipin start_up
XM2 net1 start_up vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
XM1 d1 start_up vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
XM3 vref start_up vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=10
XR2 net1 gd gd rppd w=2e-6 l=100e-6 m=1 b=0
XR3 d1 gd gd rppd w=2e-6 l=100e-6 m=1 b=0
XR4 vref gd gd rppd w=2e-6 l=100e-6 m=1 b=0
XR1 net1 d8 gd rppd w=5.8e-6 l=42e-6 m=1 b=0
x1 vp net1 d1 start_up ibias gd opamp_folded
XR5 gd net2 gd rppd w=2e-6 l=37.5e-6 m=1 b=0
XR6 net2 gd gd rppd w=2e-6 l=12.5e-6 m=1 b=0
XR7 gd gd gd rppd w=2e-6 l=12.5e-6 m=1 b=0
.ends


* expanding   symbol:  /foss/designs/test/circuit/bandgap_res_diodes.sym # of pins=3
** sym_path: /foss/designs/test/circuit/bandgap_res_diodes.sym
** sch_path: /foss/designs/test/circuit/bandgap_res_diodes.sch
.subckt bandgap_res_diodes d1 d8 gd
*.ipin gd
*.ipin d1
*.ipin d8
XQ1 gd gd d1 pnpMPA a=4e-12 p=8e-06
XQ2 gd gd d8 pnpMPA a=4e-12 p=8e-06 m=8
.ends


* expanding   symbol:  /foss/designs/test/circuit/opamp_folded.sym # of pins=6
** sym_path: /foss/designs/test/circuit/opamp_folded.sym
** sch_path: /foss/designs/test/circuit/opamp_folded.sch
.subckt opamp_folded vp inp inm out bias gd
*.ipin bias
*.opin out
*.ipin vp
*.ipin inp
*.ipin inm
*.ipin gd
XM1 inp_fold inp pair_com gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=10
XM2 inm_fold inm pair_com gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=10
XM3 tele_p tele_g gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM4 tele_m tele_g gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM5 tele_g bias2 tele_p gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM6 out bias2 tele_m gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM7 tele_g bias3 inp_fold vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM8 out bias3 inm_fold vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM9 inp_fold bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM10 inm_fold bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM11 pair_com bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=4
XM12 bias bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM13 bias4 bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM14 bias4 bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=2
XM15 bias3 bias gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1 m=2
XM16 bias3 bias3 net2 vp sg13_hv_pmos w=3.6u l=0.9u ng=1
XM17 net2 bias3 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1
XM18 net1 bias2 gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM19 bias2 bias2 net1 gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM20 bias2 bias4 vp vp sg13_hv_pmos w=3.6u l=0.9u ng=1 m=4
XM21 pair_com gd gd gd sg13_hv_nmos w=2.4u l=0.9u ng=1 m=2
XM22 bias2 gd gd gd sg13_hv_nmos w=1.2u l=0.9u ng=1
XM23 vp vp bias3 vp sg13_hv_pmos w=3.6u l=0.9u ng=1
.ends

.GLOBAL sub!
.end
